*****************************************************************
* NXP PSMN0R9-30YLD
*
* Polarity N-Channel
* Ratings 30V/8.700000E-004OHMS/100A
*
* Date Created Thu May 22 04:14:01 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN0R9-30YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000239318331990259 TC=0.0113388278791532,8.43357639347174E-06
RBD 9 4 0.000249807965739099 TC=0.0113388278791532,8.43357639347174E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 240000000
CGS 2 6 5.96062030309438e-09
RG 1 2 1.37972

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
*+ -12	6075.75
*+ -10	6070.93
*+ -8	6063.4
*+ -6	6050.49
*+ -5	6038.23
*+ -4	6013.92
*+ -3	5929.21
*+ -2	5487.13
+ -1	2950.72
+ -0.5	2188.63
+ -0.2	1905.37
+ -0.1	1899.18
+ 0	1794.2366
+ 0.1	1628.8196
+ 0.2	1626.6228
+ 0.5	1435.104
+ 1	1230.1808
+ 2	994.63352
+ 3	850.77
+ 4	740.1936
+ 5	649.35644
+ 6	583.40348
+ 8	508.67824
+ 10	475.16584
+ 12	458.38772
+ 15	445.0562
+ 16	441.92272
+ 20	433.45904
+ 25	426.4314
+ 30	421.60832



.MODEL MINT NMOS(Vto=1.94 Kp=0.8e+003 Nfs=120000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=9.48105054260628e-12
+ N=1 M=0.46 VJ=0.71 Fc=0.5 Cjo=1.04446448e-08 Tt=2.736e-08)

.ENDS

